US04824834
4-Hydroxy-8-(3-methoxy-4-phenylsulfinylphenyl)pyrazolo[1,5-a]-1,3,5-triazine dihydrate
4-Hydroxy-8-(3-methoxy-4-phenylsulfinylphenyl)pyrazolo[1,5-a]-1,3,5-triazine monohydrate (80 g) is dissolved in N,N-dimethylformamide (600 ml), and the insoluble material is filtered off. To the filtrate is added water (3 liters), and the resulting precipitate is separated by filtration and refluxed in acetone (1.6 liter) for 2 hours. After cooling, the precipitate is separated by

reactant | 4-Hydroxy-8-(3-methoxy-4-phenylsulfinylphenyl)pyrazolo[1,5-a]-1,3,5-triazine monohydrate | 80 g | O.OC1=NC=NC=2N1N=CC2C2=CC(=C(C=C2)S(=O)C2=CC=CC=C2)OC
solvent | N,N-dimethylformamide | 600 ml | CN(C=O)C | C3H7NO
product | 4-Hydroxy-8-(3-methoxy-4-phenylsulfinylphenyl)pyrazolo[1,5-a]-1,3,5-triazine dihydrate | O.O.OC1=NC=NC=2N1N=CC2C2=CC(=C(C=C2)S(=O)C2=CC=CC=C2)OC | InChI=1S/C18H14N4O3S.2H2O/c1-25-15-9-12(14-10-21-22-17(14)19-11-20-18(22)23)7-8-16(15)26(24)13-5-3-2-4-6-13;;/h2-11H,1H3,(H,19,20,23);2*1H2
